US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-acetylphenyl)piperazine (Compound 81)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(4-acetylphenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 87%). 1H NMR (200 MHz, CDCl3): δ 2.54-2.58 (m, 3H), 3.49-3.67 (m, 4H), 3.87-3.96 (m, 6H), 4.12-4.16 (m, 4H), 6.87-7.03 (m, 2H), 7.19-7.31 (m, 3H), 7.62-7.66 (m, 1H), 7.89-7.97 (m, 2H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(4-acetylphenyl)piperazine | C(C)(=O)C1=CC=C(C=C1)N1CCNCC1 | C12H16N2O
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-acetylphenyl)piperazine | 87% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O)OC | C23H25N5O4
